US09193707B2
3. Synthesis of tert-butyl 5,6-dimethoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of tert-butyl 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylate (100 mg, 0.36 mmol, 1.00 equiv) in N,N-dimethylformamide (10 mL) and sodium hydride (12.9 mg, 1.50 equiv). This was followed by the addition of CH3I (254.2 mg, 5.00 equiv). The resulting solution was stirred overnight at room temperature. The resulting solution was diluted with 100 mL of water. The resulting solution was extracted with 3×30 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 85 mg (81%) of tert-butyl 5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylate as a light yellow solid. MS (ESI) m/z 194 ([M+H-t-Boc]+); Rf 0.28 (starting material) and 0.43 (product) in ethyl acetate:petroleum ether=1:3.

reactant | tert-butyl 5-hydroxy-6-methoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylate | 0.36 mmol, 100 mg, 1.00 equiv | OC1=C2CCN(CC2=CC=C1OC)C(=O)OC(C)(C)C | C15H21NO4
reactant | sodium hydride | 12.9 mg, 1.50 equiv | [H-].[Na+]
reactant | CH3I | 254.2 mg, 5.00 equiv | CI | CH3I
reactant | H-t-Boc | C(=O)OC(C)(C)C | C5H10O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 5,6-dimethoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | COC1=C2CCN(CC2=CC=C1OC)C(=O)OC(C)(C)C | C16H23NO4
